US05168103
A solution of [3-[[2-(diethoxyphosphinyl)ethyl]amino]propyl]carbamic acid phenylmethyl ester (3.17 g, 8.5 mmol) in absolute ethanol (40 mL) was added over 45 minutes to 3,4-diethoxy-3-cyclobutene-1,2-dione (2.3 mL, 16 mmol) dissolved ethanol (55mL). After leaving overnight, the reaction mixture was preadsorbed onto silica gel and purified by flash chromatography (7 cm diameter, gradient elution was 2.5-10% methanol in dichloromethane) to yield [3-[[2-(diethoxyphosphinyl)ethyl](2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]propyl]carbamic acid phenylmethyl ester as a viscous oil (3.75 g, 89%); 1H NMR (CDCl3, 400 MHz): δ 7.35 (m, 5H), 5.45 (br m, NH), 5.09 (s, 2H), 4.80-4.71 (m, 2H), 4.16-4.09 (m, 4H), 3.90-3.48 (m, 4H), 3.23-3.20 (m, 2H), 2.16-2.05 (m, 2H), 1.85-1.79 (m, 2H), 1.47, 1.41 (t, J=7 Hz, 3H), 1.34 (t, J=7 Hz, 6H).

reactant | [3-[[2-(diethoxyphosphinyl)ethyl]amino]propyl]carbamic acid phenylmethyl ester | 8.5 mmol, 3.17 g | C1(=CC=CC=C1)COC(NCCCNCCP(=O)(OCC)OCC)=O | C17H29N2O5P
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 16 mmol, 2.3 mL | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 55mL | C(C)O | C2H6O
product | [3-[[2-(diethoxyphosphinyl)ethyl](2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]propyl]carbamic acid phenylmethyl ester | 3.75 g, 89% | C1(=CC=CC=C1)COC(NCCCN(C1=C(C(C1=O)=O)OCC)CCP(=O)(OCC)OCC)=O | C23H33N2O8P
